US06777417B2
3-(3-Dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (71 mg, 0.3 mmol), 5-methylaminosulfonyloxindole (68 mg, 0.3 mmol) and piperidine (0.03 ml) in 1 ml of ethanol was stirred at 60° C. for over night. The mixture was cooled and the solids collected by vacuum filtration and washed with ethanol to give (93 mg, 70% yield) of 3-[1-[3-(3-dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide.

reactant | 3-(3-Dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.3 mmol, 71 mg | CN(CCCC1=C(NC=2CCCCC12)C=O)C | C14H22N2O
reactant | 5-methylaminosulfonyloxindole | 0.3 mmol, 68 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | piperidine | 0.03 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-[1-[3-(3-dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 93 mg, 70% yield | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN(C)C | C23H30N4O3S
